US04874769
5-[3-(4-(2-Quinolylmethyloxy)Phenoxy)Propyl]Tetrazole
A mixture of 8.0 g of 4-[4-(2-quinolylmethyloxy)phenoxy]butyronitrile, 4.9 g of sodium azide and 4.0 g of ammonium chloride is heated with 25 ml of dry dimethylformamide at 140° C. for 20 hours. The reaction mixture is poured into ice, basified with 1N sodium hydroxide and extracted 2 times with warm ethyl acetate. The aqueous fraction is acidified with acetic acid. The product is filtered and washed with water to give 6.6 g of crude product. Crystallization from ethyl acetate gives 4.2 g of the light tan product, M.P. 158°-160° C.,

reactant | 4-[4-(2-quinolylmethyloxy)phenoxy]butyronitrile | 8.0 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(OCCCC#N)C=C1 | C20H18N2O2
reactant | sodium azide | 4.9 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.0 g | [Cl-].[NH4+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-[3-(4-(2-Quinolylmethyloxy)Phenoxy)Propyl]Tetrazole | 4.2 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(OCCCC2=NN=NN2)C=C1 | C20H19N5O2
